US09255090B2
Synthesis of [3-(5-Chloro-1,2,3,4-tetrahydro-isoquinolin-8-yl)-4-methoxy-phenyl]-acetic acid ethyl ester (C20H22NO3Cl, MW=359.13)
To a mixture under N2 of 8-bromo-5-chloro-1,2,3,4-tetrahydro-isoquinoline hydrochloride (566 mg, 2.00 mmol, 1 eq.), [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (901 mg, 2.0 mmol, 1.00 eq) and sodium carbonate (1.06 g, 10.0 mmol, 5.00 eq.) in toluene/MeOH/water 20:4:1 (40 mL), tetrakis(triphenylphosphine) palladium (0) (116 mg, 0.1 mmol, 0.05 eq.) was added and the mixture was stirred under reflux for 18 hours. The mixture was allowed to cool to r.t. and concentrated in vacuo. The residue was partitioned between AcOEt (75 mL) and water (75 mL). The layers were separated. The org. phase was washed with sat. aq. NaCl soln. (1×50 mL), dried over MgSO4 and filtered through Celite. The filtrate was concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 40 fractions of 45 mL, AcOEt+MeOH 10%) to yield the title product as an orange oil.

reactant | 8-bromo-5-chloro-1,2,3,4-tetrahydro-isoquinoline hydrochloride | 2.00 mmol, 566 mg, 1 eq. | Cl.BrC=1C=CC(=C2CCNCC12)Cl
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 2.0 mmol, 901 mg, 1.00 eq | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
reactant | sodium carbonate | 10.0 mmol, 1.06 g, 5.00 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene MeOH water | 40 mL | C1(=CC=CC=C1)C.CO.O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.1 mmol, 116 mg, 0.05 eq. | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | [3-(5-Chloro-1,2,3,4-tetrahydro-isoquinolin-8-yl)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C=1C=CC(=C2CCNCC12)Cl)=O | C20H22ClNO3
